US06147216
1-[4-(l-Bromo-1-methyl-ethyl)-phenyl]-4-chloro-butan-1-one
Dissolve 4-chloro-1-(4-isopropyl-phenyl)-butan-1-one (2.10 g, 9.35 mmol) in carbontetrachloride (30 mL), add N-bromosuccinimide (1.75 g, 9.83 mmol) and benzoylperoxide (3 mg) and stir at reflux for 1 hour. Cool the reaction mixture, filter, wash with water and brine. Dry (MgSO4), filter and evaporate the solvent in vacuo to give the title compound as an amber oil.

reactant | 4-chloro-1-(4-isopropyl-phenyl)-butan-1-one | 9.35 mmol, 2.10 g | ClCCCC(=O)C1=CC=C(C=C1)C(C)C | C13H17ClO
reactant | N-bromosuccinimide | 9.83 mmol, 1.75 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoylperoxide | 3 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbontetrachloride | 30 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 1-[4-(l-Bromo-1-methyl-ethyl)-phenyl]-4-chloro-butan-1-one | BrC(C)(C)C1=CC=C(C=C1)C(CCCCl)=O | C13H16BrClO
